US04029671
N-[4-Cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester, ammonium salt
To a suspension of 0.5 g. of N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester, in 25 ml. of ethanol, there were added with stirring, six drops of 28 percent ammonia in water. The mixture was stirred overnight at ambient room temperature. The reaction mixture was filtered and the solid which was collected was stirred for a few minutes in acetone at ambient room temperature and the solvent filtered off and discarded. The solid which was obtained weighed about 0.3 g. and had a melting point of about 175°-179° C. The solid was identified by NMR spectrum and elemental analyses as N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidiazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester, ammonium salt.

reactant | N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester | C(#N)C=1C(=NN(C1NC(C(=O)OCC)=O)C)C=1N(C(=CN1)[N+](=O)[O-])C | C13H13N7O5
reactant | ethanol | C(C)O | C2H6O
catalyst | ammonia | six drops | N | H3N
solvent | water | O | H2O
product | N-[4-Cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester, ammonium salt | [NH4+].C(#N)C=1C(=NN(C1NC(C(=O)OCC)=O)C)C=1N(C(=CN1)[N+](=O)[O-])C | InChI=1S/C13H13N7O5.H3N/c1-4-25-13(22)12(21)16-10-7(5-14)9(17-19(10)3)11-15-6-8(18(11)2)20(23)24;/h6H,4H2,1-3H3,(H,16,21);1H3/p+1
